US07618981B2
1,1-Dimethylethyl {(1S)-2-[4-(bromoacetyl)phenyl]-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]ethyl}carbamate
A solution of 1,1-dimethylethyl {(1S)-2-(4-bromophenyl)-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]ethyl}carbamate (21.7 mmol), 1-ethoxyvinyltri-n-butylin (43.5 mmol), and trans-dichlorobis(triphenylphospine)palladium(II) (5 mol %) were stirred in anhydrous dioxane (300 mL) at 100° C. for 3 h. The reaction was then concentrated in vacuo and redissolved in a solution of tetrahydrofuran and water (3:1, 400 mL) and treated with N-bromosuccinimide (108.8 mmol) and stirred at RT for half an hour. The reaction solution was then concentrated to dryness and redissolved in ethyl acetate (150 mL) and precipate formed upon addition of hexanes (350 mL). The precipitate was filtered and dried to afford the title product as yellow solid (71%). ESMS [M+H]+: 502.4.

reactant | 1,1-dimethylethyl {(1S)-2-(4-bromophenyl)-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]ethyl}carbamate | 21.7 mmol | BrC1=CC=C(C=C1)C[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)NC(OC(C)(C)C)=O | C22H23BrN2O4
reactant | N-bromosuccinimide | 108.8 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dioxane | 300 mL | O1CCOCC1 | C4H8O2
catalyst | trans-dichlorobis(triphenylphospine)palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1,1-Dimethylethyl {(1S)-2-[4-(bromoacetyl)phenyl]-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]ethyl}carbamate | 71% | BrCC(=O)C1=CC=C(C=C1)C[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)NC(OC(C)(C)C)=O | C24H25BrN2O5
